US08633173B2
N-{3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.4302 mmol) and N-(3-aminomethyl-pyridin-2-yl)-N-methyl-methanesulfonamide (102.0 mg, 0.4738 mmol) in a manner analogous to Example 2d. Product isolated as a tan solid (0.056 g, 35%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (d, J=4.6 Hz, 1H), 8.11 (d, J=6.5 Hz, 1H), 7.76 (d, J=7.6 Hz, 1H), 7.40-7.32 (m, 2H), 6.93 (t, J=7.5 Hz, 1H), 6.26 (d, J=7.9 Hz, 1H), 4.62 (d, J=6.3, 2H), 3.24 (s, 3H), 3.16 (s, 3H). MS=367, 369 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.4302 mmol, 100.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | N-(3-aminomethyl-pyridin-2-yl)-N-methyl-methanesulfonamide | 0.4738 mmol, 102.0 mg | NCC=1C(=NC=CC1)N(S(=O)(=O)C)C | C8H13N3O2S
product | N-{3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
